US07820699B2
1.1 Using general procedure A, (R)-(+)-3-(tert-butyloxycarbonylamino)-pyrrolidine was alkylated with bromoacetic acid ethyl ester to give ((R)-3-tert-butoxycarbonylamino-pyrrolidin-1-yl)-acetic acid ethyl ester. Off-white solid. MS 273.1 ([M+H]+)

reactant | (R)-(+)-3-(tert-butyloxycarbonylamino)-pyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | bromoacetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
product | ((R)-3-tert-butoxycarbonylamino-pyrrolidin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C[C@@H](CC1)NC(=O)OC(C)(C)C)=O | C13H24N2O4
